US04933345
3-Acetyl-5-benzyloxy-4-methoxymethyl-9-tosyl-β-carboline
3.3 g of 5-benzyloxy-4-methoxymethyl-9-tosyl-β-carboline-3-carboxylic acid ethyl ester is suspended in 25 ml of absolute tetrahydrofuran (THF) and cooled to -60° C. under an N2 atmosphere. To this suspension is added dropwise 5.2 ml of a 1.5-molar ethereal methyllithium solution and the mixture is stirred for another 2 hours at -60° C. After heating to room temperature, the reaction mixture is combined with saturated ammonium chloride solution and extracted with ethyl acetate. The crude product is purified by chromatography on silica gel with toluene+ethyl acetate in a ratio of 95:5.

reactant | 5-benzyloxy-4-methoxymethyl-9-tosyl-β-carboline-3-carboxylic acid ethyl ester | 3.3 g | C(C)OC(=O)C=1N=CC=2N(C3=CC=CC(=C3C2C1COC)OCC1=CC=CC=C1)S(=O)(=O)C1=CC=C(C)C=C1 | C30H28N2O6S
reactant | methyllithium | 1.5-molar | C[Li]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
product | 3-Acetyl-5-benzyloxy-4-methoxymethyl-9-tosyl-β-carboline | C(C)(=O)C=1N=CC=2N(C3=CC=CC(=C3C2C1COC)OCC1=CC=CC=C1)S(=O)(=O)C1=CC=C(C)C=C1 | C29H26N2O5S
